US09353046B2
Production of 2-Fluoro-3-(N-methylbenzamido)-N-(2-(trifluoromethyl)phenyl)benzamide
26.8 g (166.3 mmol) of 2-(trifluoromethyl)aniline, 37.0 g (365.9 mmol) of triethylamine, and 100.9 g (365.9 mmol) of 2-fluoro-3-(N-methylbenzamido)benzoyl chloride were added to tetrahydrofuran (400 mL), and the mixture was stirred at 50° C. for 3 hours. The reaction liquid was filtered through a filter, and an aqueous solution (125 mL) containing 14.6 g (365.9 mmol) of sodium hydroxide was added to the filtrate, followed by stirring at 50° C. for 30 minutes. After the solvent was distilled off under reduced pressure, the obtained residue was extracted with ethyl acetate, and washed with aqueous potassium carbonate solution and saturated saline solution, sequentially. The organic layer was dried over magnesium sulfate. Then, magnesium sulfate was filtered off, and the solvent was distilled off under reduced pressure. The obtained solid was washed with n-hexane and isopropyl ether, followed by drying, to obtain 63.2 g (yield 91%) of the title compound as a white solid.

reactant | 2-(trifluoromethyl)aniline | 166.3 mmol, 26.8 g | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
reactant | triethylamine | 365.9 mmol, 37.0 g | C(C)N(CC)CC | C6H15N
reactant | 2-fluoro-3-(N-methylbenzamido)benzoyl chloride | 365.9 mmol, 100.9 g | FC1=C(C(=O)Cl)C=CC=C1N(C(C1=CC=CC=C1)=O)C | C15H11ClFNO2
reactant | sodium hydroxide | 365.9 mmol, 14.6 g | [OH-].[Na+]
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | 2-Fluoro-3-(N-methylbenzamido)-N-(2-(trifluoromethyl)phenyl)benzamide | 63.2 g, yield 91% | FC1=C(C(=O)NC2=C(C=CC=C2)C(F)(F)F)C=CC=C1N(C(C1=CC=CC=C1)=O)C | C22H16F4N2O2
